US08685969B2
6. 4-(2-Fluorophenyl)-7-(isonicotinamido)-9H-pyrido[3,4-b]indole-1-carboxamide
A mixture of 7-(benzyloxycarbonylamino)-4-(2-fluorophenyl)-9H-pyrido[3,4-b]indole-1-carboxylic acid (214 mg, 0.470 mmol), ammonium chloride (101 mg, 1.880 mmol), N,N-diisopropylamine (0.394 mL, 2.255 mmol), BOP (270 mg, 0.611 mmol), N-methylmorpholine (0.201 mL, 1.833 mmol) in DMF (2 mL) was stirred at rt for 1 hr. To the reaction solution was added water (20 mL), and the precipitating product (213 mg, 0.422 mmol, 90% yield) was collected as a beige solid by suction filtration and dried over Drierite under vacuum.

reactant | 7-(benzyloxycarbonylamino)-4-(2-fluorophenyl)-9H-pyrido[3,4-b]indole-1-carboxylic acid | 0.470 mmol, 214 mg | C(C1=CC=CC=C1)OC(=O)NC1=CC=C2C3=C(NC2=C1)C(=NC=C3C3=C(C=CC=C3)F)C(=O)O | C26H18FN3O4
reactant | ammonium chloride | 1.880 mmol, 101 mg | [Cl-].[NH4+]
reactant | N,N-diisopropylamine | 2.255 mmol, 0.394 mL | C(C)(C)NC(C)C | C6H15N
reactant | BOP | 0.611 mmol, 270 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N-methylmorpholine | 1.833 mmol, 0.201 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | 4-(2-Fluorophenyl)-7-(isonicotinamido)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.422 mmol, 213 mg, 90% yield | FC1=C(C=CC=C1)C1=CN=C(C=2NC3=CC(=CC=C3C21)NC(C2=CC=NC=C2)=O)C(=O)N | C24H16FN5O2
